US06613942B1
Preparation of 4-(2-Chloroethoxy)-1-naphthaldehyde
To a solution of 4-hydroxy-1-naphthaldehyde (8.6 g, 50 mmoles) and potassium carbonate (13.8 g, 100 mmoles) in N,N-dimethylformamide (DMF)(40 mL) was added 1-bromo-2-chloroethane (7.4 g, 50 mmoles). The mixture was heated at 60° C. overnight. The solution was diluted with ethyl acetate (500 mL), extracted with water and brine. The organic layer was dried over magnesium sulfate and the solvent was evaporated to obtain 12.1 g product (52% yield).

reactant | 4-hydroxy-1-naphthaldehyde | 50 mmoles, 8.6 g | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | potassium carbonate | 100 mmoles, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 50 mmoles, 7.4 g | BrCCCl | C2H4BrCl
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2-Chloroethoxy)-1-naphthaldehyde | 12.1 g, 52% yield | ClCCOC1=CC=C(C2=CC=CC=C12)C=O | C13H11ClO2
